US08648041B2
Histamine dihydrochloride (20.47 g; 0.111 mol) and triethylamine (48 mL; 0.345 mol) in absolute methanol (400 mL) were stirred at room temperature for 10 min. Trifluoroacetic acid ethyl ester (14.6 mL; 0.122 mol) in methanol (30 mL) was added dropwise over 30 min at 0° C. Reaction mixture was stirred for 3.5 hrs at room temperature and then it was evaporated to dryness in vacuo. The residue was dissolved in dichlormethane (450 mL) and triethylamine (31 mL; 0.222 mol) was added. Then trityl chloride (34.1 g; 0.122 mol) was added piecewise and mixture was stirred over night at room temperature. Chloroform (400 mL) and water (600 mL) were poured into reaction mixture. Aqueous layer was separated and extracted with chloroform (3×400 mL). The combined organic layers were dried over anhydrous magnesium sulfate. Solvent was removed and the beige solid was triturated with hexanes (1000 mL). Suspension was filtered to yield 2,2,2-trifluoro-N-[2-(1-trityl-1H-imidazol-4-yl)-ethyl]-acetamide as white solid.

reactant | Histamine dihydrochloride | 0.111 mol, 20.47 g | Cl.Cl.NCCC1=CNC=N1
reactant | triethylamine | 0.345 mol, 48 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic acid ethyl ester | 0.122 mol, 14.6 mL | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | triethylamine | 0.222 mol, 31 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 0.122 mol, 34.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methanol | 400 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 600 mL | O | H2O
solvent | Chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,2,2-trifluoro-N-[2-(1-trityl-1H-imidazol-4-yl)-ethyl]-acetamide | FC(C(=O)NCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C26H22F3N3O
